US06344483B1
Ex-8d) 12.1 g 1-t-Butyloxycarbonylamino-4-chloro-2-butyne is refluxed for 16 h with a mixture of 8 g diethyl acetamidomalonate and sodiumethoxide prepared from 900 mg of sodium in 100 mL of absolute ethanol. Ethanol is then removed under vacuum and the residual mass is partitioned between water and ethylacetate/ether (1:1). The organic layer is treated with 0.5N NaOH and 0.5N HCl and washed with water. It is then dried over Na2SO4, filtered and concentrated. The product is crystallized from ethylacetate/petroleum ether to give ˜7 g of Ethyl-2-acetylamino-6-t-butyloxycarbonylamino-2-ethoxycarbonyl-4-hexynoate.

reactant | 1-t-Butyloxycarbonylamino-4-chloro-2-butyne | 12.1 g | C(C)(C)(C)OC(=O)NCC#CCCl | C9H14ClNO2
reactant | diethyl acetamidomalonate | 8 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodiumethoxide | [O-]CC.[Na+]
reactant | sodium | 900 mg | [Na] | Na
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl-2-acetylamino-6-t-butyloxycarbonylamino-2-ethoxycarbonyl-4-hexynoate | ˜7 g | C(C)OC(C(CC#CCNC(=O)OC(C)(C)C)(C(=O)OCC)NC(C)=O)=O | C18H28N2O7
